US07432271B2
B. N-{2-[5-(6-Dimethylamino-pyridin-2-yl)-3-thiophen-2-yl-1H-pyrazol-4-yl]-ethyl}-4-pentyl-benzenesulfonamide
A mixture of N-{2-[5-(6-Bromo-pyridin-2-yl)-3-thiophen-2-yl-1H-pyrazol-4-yl]-ethyl}-4-pentyl-benzenesulfonamide (5 mg, 8.9 μmol) and dimethylamine (2.0M in MeOH, 8.0 ml) in 1-methyl-2-pyrrolidinone (500 μL) was stirred at 190° C. in a seal tube for 3 h. The reaction mixture was concentrated to 2 ml. The crude product was purified by Prep-HPLC. Removal of the solvent in vacuo provided the title compound (1.2 mg, 26% yield). MS m/e 524; HPLC retention time 3.34 min (Method A).

reactant | N-{2-[5-(6-Bromo-pyridin-2-yl)-3-thiophen-2-yl-1H-pyrazol-4-yl]-ethyl}-4-pentyl-benzenesulfonamide | 8.9 μmol, 5 mg | BrC1=CC=CC(=N1)C1=C(C(=NN1)C=1SC=CC1)CCNS(=O)(=O)C1=CC=C(C=C1)CCCCC | C25H27BrN4O2S2
reactant | dimethylamine | 2.0M, 8.0 ml | CNC | C2H7N
solvent | 1-methyl-2-pyrrolidinone | 500 μL | CN1C(CCC1)=O | C5H9NO
product | N-{2-[5-(6-Dimethylamino-pyridin-2-yl)-3-thiophen-2-yl-1H-pyrazol-4-yl]-ethyl}-4-pentyl-benzenesulfonamide | 1.2 mg, 26% yield | CN(C1=CC=CC(=N1)C1=C(C(=NN1)C=1SC=CC1)CCNS(=O)(=O)C1=CC=C(C=C1)CCCCC)C | C27H33N5O2S2
